US05514680
4-Fluoro-1,2-diaminobenzene was prepared using an adaptation of the method of Tsuji et al. (Tsuji, Y. et al., J. Org. Chem. 55:580 (1990)). A suspension of Zn powder (10.5 g, 0.160 mol), CaCl2 (1.05 g) and H2O in 40 ml EtOH was heated to reflux with stirring under N2. To this was added slowly dropwise a solution of 4-fluoro-2-nitroaniline (2.00 g, 12.8 mmol) in 10 mL EtOH. The reaction mixture was refluxed 8 h. TLC analysis (silica gel, 2:1 benzene:EtOAc) indicated complete disappearance of the starting material. The Zn was removed by vacuum filtration, and the solvent rotary evaporated. The residue was dissolved in 50 mL Et2O and the solution extracted with 3×25 mL 1N HCl. The aqueous layers were combined and basified with 50% aq. NaOH (6 g) and the resulting solution extracted with 3×25 mL Et2O. The Et2O layers were combined and dried (MgSO4). The solvent was rotary evaporated to yield 1.36 g (84%) of a brown solid. mp 90 92° C. 1H NMR (CDCl3) δ3.18 (brs, 2H, NH2); 3.58 (brs, 2H, NH2); 6.44 (m, 2H, ArH), 6.61 (m, 1H, ArH).

reactant | CaCl2 | 1.05 g | [Cl-].[Cl-].[Ca+2]
reactant | H2O | O | H2O
reactant | 4-fluoro-2-nitroaniline | 12.8 mmol, 2.00 g | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | EtOH | 40 ml | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Zn | 0.160 mol, 10.5 g | [Zn] | Zn
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Fluoro-1,2-diaminobenzene | FC1=CC(=C(C=C1)N)N | C6H7FN2
